US08114881B2
d) 6-[1-(6-Cyanopyridin-3-yl)-1H-pyrazol-5-yl]-N-cyclopropyl-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide
Methyl 6-[1-(6-cyanopyridin-3-yl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (0.026 g, 0.054 mmol) in acetonitrile (0.33 ml) and ethanol (0.074 ml) were placed in a vial. Cyclopropylamine (0.14 ml, 2.0 mmol) was added, the vial sealed and stirred at 60° C. for 10 h. After evaporation, the residue was purified by preparative HPLC to give 0.010 g (37%) of the title compound.

reactant | Methyl 6-[1-(6-cyanopyridin-3-yl)-1H-pyrazol-5-yl]-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 0.054 mmol, 0.026 g | C(#N)C1=CC=C(C=N1)N1N=CC=C1C1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C23H15F3N6O3
reactant | Cyclopropylamine | 2.0 mmol, 0.14 ml | C1(CC1)N | C3H7N
solvent | acetonitrile | 0.33 ml | C(C)#N | C2H3N
solvent | ethanol | 0.074 ml | C(C)O | C2H6O
product | 6-[1-(6-Cyanopyridin-3-yl)-1H-pyrazol-5-yl]-N-cyclopropyl-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.010 g, 37% | C(#N)C1=CC=C(C=N1)N1N=CC=C1C1=C(N(C(C(=N1)C(=O)NC1CC1)=O)C1=CC(=CC=C1)C(F)(F)F)C | C25H18F3N7O2
